US05604237
(a) 1,2,3,4-Tetrahydro-6,7-dimethoxy-2-[3-(4-nitrophenoxy)propyl]isoquinoline
A mixture of 1-(3-bromopropoxy)-4-nitrobenzene (10 g), 1,2,3,4-tetrahydro-6,7-dimethoxyisoquinoline hydrochloride (8.8 g) and potassium carbonate (10.6 g) in DMF (100 ml) was heated at 100° for 16 h. The mixture was then filtered and the filtrate evaporated. The residue was taken up in water and extracted with dichloromethane. The organic layer was washed with water, dried, and evaporated to give an oil which crystallised in ether to give the title compound (11.3 g), m.p. 100°.

reactant | 1-(3-bromopropoxy)-4-nitrobenzene | 10 g | BrCCCOC1=CC=C(C=C1)[N+](=O)[O-] | C9H10BrNO3
reactant | 1,2,3,4-tetrahydro-6,7-dimethoxyisoquinoline hydrochloride | 8.8 g | Cl.COC=1C=C2CCNCC2=CC1OC
reactant | potassium carbonate | 10.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 1,2,3,4-Tetrahydro-6,7-dimethoxy-2-[3-(4-nitrophenoxy)propyl]isoquinoline | 11.3 g | COC=1C=C2CCN(CC2=CC1OC)CCCOC1=CC=C(C=C1)[N+](=O)[O-] | C20H24N2O5
